US08026234B2
4-Amino-2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide:
To a solution of 2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)-4-nitrobenzamide (55 g, 177 mmol) in EtOH (450 mL) was added 10% Pd/C (11 g), followed by 4.4 mL of concentrated HCl. The reaction mixture was hydrogenated using a hydrogen balloon for 22 h. The solution was filtered through celite and concentrated to a minimum volume, after which solid was filtered, washed with ether. The filtrate concentrated again and trituated with EtOH and repeated several times to get out more products. The solid was combined and further dried to give total 50 g of product as light yellow powder (>98%). 1H NMR (400 MHz, DMSO-d6) δ 1.64-2.02 (m, 4H) 2.61 (s, 3H) 2.90 (t, J=11.0 Hz, 2H) 3.24 (m, 2H) 3.72-3.81 (m, 3H) 3.84-4.03 (m, 1H) 5.60 (s, 2H) 6.29-6.50 (m, 1H) 7.01 (d, J=6.8 Hz, 1H) 7.69 (dd, J=7.3, 4.8 Hz, 1H). [M+H] calc'd for C14H20FN3O2, 282. found 282.

reactant | 2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)-4-nitrobenzamide | 177 mmol, 55 g | FC1=C(C(=O)NC2CCN(CC2)C)C=C(C(=C1)[N+](=O)[O-])OC | C14H18FN3O4
reactant | HCl | 4.4 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 450 mL | CCO | C2H6O
catalyst | Pd/C | 11 g | [Pd] | Pd
product | 4-Amino-2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide | 50 g, >98% | NC1=CC(=C(C(=O)NC2CCN(CC2)C)C=C1OC)F | C14H20FN3O2
